US07268231B2
To a suspension of 2-[(5-methyl-pyrazin-2-ylmethyl)-amino]-thiazol-4-one (35.6 mg, 0.16 mmol), and 1,5-naphthyridine-6-carboxaldehyde (31.6 mg, 0.2 mmol) in toluene (1 mL) in a microwave tube were added benzoic acid (2.0 mg, 0.02 mmol) and piperidine (1.7 uM, 0.02 mmol). The reaction mixture was heated to 130° C. with microwave for 10 min., then cooled to r.t. and diluted with toluene. The solid was collected by filtration and washed with toluene, MeOH and ether to give 2-[(5-methyl-pyrazin-2-ylmethyl)-amino]-5-[1,5] naphthyridin-2-ylmethylene-thiazol-4-one as a brown solid (10.6 mg, 18.3%). HR-ES (+) m/e calcd. for C18H14N6OS: (M+H)+ 363.1023. Found: 363.1022.

reactant | 2-[(5-methyl-pyrazin-2-ylmethyl)-amino]-thiazol-4-one | 0.16 mmol, 35.6 mg | CC=1N=CC(=NC1)CNC=1SCC(N1)=O | C9H10N4OS
reactant | 1,5-naphthyridine-6-carboxaldehyde | 0.2 mmol, 31.6 mg | N1=CC=CC2=NC(=CC=C12)C=O | C9H6N2O
reactant | benzoic acid | 0.02 mmol, 2.0 mg | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | piperidine | 0.02 mmol, 1.7 uM | N1CCCCC1 | C5H11N
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
product | 2-[(5-methyl-pyrazin-2-ylmethyl)-amino]-5-[1,5] naphthyridin-2-ylmethylene-thiazol-4-one | 10.6 mg, 18.3% | CC=1N=CC(=NC1)CNC=1SC(C(N1)=O)=CC1=NC2=CC=CN=C2C=C1 | C18H14N6OS
